US08871760B2
A solution of 5-Methyl-3-(4-methyl-3-nitro-phenyl)-1H-pyrazole, 2-bromoethoxy tertbutyldimethylsilane, Cs2CO3 and NaI in NMP was heated in a microwave oven at 100° C. for 1 hour, and then cooled to room temperature. The reaction mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by “flash chromatography” (0 to 30% EtOAc in hexanes to give 867 mg of 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-3-(4-methyl-3-nitro-phenyl)-1H-pyrazole as an oil that also contained 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-3-methyl-5-(4-methyl-3-nitro-phenyl)-1H-pyrazole as a minor product.

reactant | 5-Methyl-3-(4-methyl-3-nitro-phenyl)-1H-pyrazole | CC1=CC(=NN1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H11N3O2
reactant | 2-bromoethoxy tertbutyldimethylsilane | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NaI | [Na+].[I-]
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-3-(4-methyl-3-nitro-phenyl)-1H-pyrazole | 867 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1C)C1=CC(=C(C=C1)C)[N+](=O)[O-])(C)C | C19H29N3O3Si
